US07405300B2
2-chloro-1-(4-methylphenyl)-1H-indole-3-carboxaldehyde is reacted with piperazine as described in Step 2 of Example 29 to afford 1-(4-methylphenyl)-2-(piperazin-1-yl)-1H-indole-3-carboxaldehyde (29% yield). ESI/MS 320 (M+H); RT=2.64 min; NMR (CDCl3) 10.27 (1H, s); 8.27 (1H, d, J=9 Hz); 7.38-7.15 (6H, m); 6.96 (1H, d, J=6 Hz); 3.26 (4H, m); 2.81 (4H, m); 2.47 (3H, s).

reactant | 2-chloro-1-(4-methylphenyl)-1H-indole-3-carboxaldehyde | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC=C(C=C1)C | C16H12ClNO
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-(4-methylphenyl)-2-(piperazin-1-yl)-1H-indole-3-carboxaldehyde | 29% yield | CC1=CC=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)N1CCNCC1 | C20H21N3O
